### PR TITLE
[stdlib] [Permutation] constructive pigeonhole principle for lists

### PR DESCRIPTION
**Pull request by mrhaandi**
Kind: feature

This PR adds the constructive pigeonhole principle for lists:
```coq
Lemma Permutation_pigeonhole_rel (R : B -> A -> Prop) (l1 : list B) (l2 : list A) :
  Forall (fun (b : B) => Exists (R b) l2) l1 ->
  length l2 < length l1 ->
  exists (b b' : B) (l3 : list B), Permutation l1 (b :: b' :: l3) /\ exists a, In a l2 /\ R b a /\ R b' a.
```

My motivation is the constructive computability theory, where this lemma is quite useful.
Note: the proof does not require excluded middle, decidable equality, or decidable `R` on the underlying types.
Other formulations in the stdlib are
- `Pigeonhole_principle` from `Sets.Image`, which requires classical logic
- `NoDup_Permutation_bis` from `Sorting.Permutation`, which is dual. It is not sufficient because contrapositive `not (Nodup l)` is constructively too weak.

Lemmas added to `Permutation.v`
- `Permutation_incl_cons_inv_r`
- `Permutation_pigeonhole`
- `Permutation_pigeonhole_rel`

Lemmas added to `List.v`
- `Forall2_cons_iff`
- `Forall2_length`

- [x] Added **changelog**.

### CODE REVIEW

**Comment by DmxLarchey** [comment]
Hi @mrhaandi, 

For the moment, I just add [this GitHub reference](https://github.com/DmxLarchey/PHP-short) in case of further discussions. The length of the code is quite dependent on how you express that a list has a duplicate: with permutations, or of the form "...++x::...++x::..." etc.

Maybe the code could be completed with proofs that double inclusion (and inclusion) of lists can be characterized inductivelly (smallest pre-order allowing contraction, weakening ...) w/o assuming decidable equality.

**Comment by mrhaandi** [comment]
> of the form "...++x::...++x::..." etc.

The existing
```coq
Lemma Permutation_vs_cons_cons_inv : forall l l' a b,
 Permutation l (a :: b :: l') ->
 exists l1 l2 l3, l = l1 ++ a :: l2 ++ b :: l3 \/ l = l1 ++ b :: l2 ++ a :: l3.
```
can be used to easily transition to `...++x::...++x::...`

File: theories/Sorting/Permutation.v [hunk 1]
```diff
@@ -537,6 +537,68 @@ Proof.
...
+    + now intros _ ? %PeanoNat.Nat.nlt_0_r.
+    + now intros ? %incl_l_nil.
+  - cbn. intros l1 [n [l4 [Hl1 Hl4]]] %Permutation_incl_cons_inv_r Hlen.
+    destruct n as [|[|n]].
+    + apply IH.
+      * unfold incl. eauto using Permutation_in.
+      * eauto using PeanoNat.Nat.lt_trans.
+    + assert (Hl2l4 : length l2 < length l4).
+      { rewrite (Permutation_length Hl1) in Hlen.
+        now apply le_S_n. }
```
Comment (olaure01) [inline theories/Sorting/Permutation.v:566]:
```suggestion
        now apply PeanoNat.Nat.succ_lt_mono. }
```

File: theories/Sorting/Permutation.v [hunk 2]
```diff
@@ -537,6 +537,68 @@ Proof.
...
+      destruct (IH l4 Hl4 Hl2l4) as [b [l3 Hl4l3]].
+      exists b, (a:: l3).
+      apply (Permutation_trans Hl1).
+      now apply (Permutation_cons_app (b::b::nil)).
```
Comment (olaure01) [inline theories/Sorting/Permutation.v:570]:
```suggestion
      now apply (Permutation_cons_app (b :: b :: nil)).
```

File: theories/Sorting/Permutation.v [hunk 3]
```diff
@@ -537,6 +537,68 @@ Proof.
...
+  - cbn. intros l1 [n [l4 [Hl1 Hl4]]] %Permutation_incl_cons_inv_r Hlen.
+    destruct n as [|[|n]].
+    + apply IH.
+      * unfold incl. eauto using Permutation_in.
+      * eauto using PeanoNat.Nat.lt_trans.
+    + assert (Hl2l4 : length l2 < length l4).
+      { rewrite (Permutation_length Hl1) in Hlen.
+        now apply le_S_n. }
+      destruct (IH l4 Hl4 Hl2l4) as [b [l3 Hl4l3]].
+      exists b, (a:: l3).
```
Comment (olaure01) [inline theories/Sorting/Permutation.v:568]:
```suggestion
      exists b, (a :: l3).
```

File: theories/Sorting/Permutation.v [hunk 4]
```diff
@@ -537,6 +537,68 @@ Proof.
...
+      apply (Permutation_trans Hl1).
+      now apply (Permutation_cons_app (b::b::nil)).
+    + now exists a, (repeat a n ++ l4).
+Qed.
+
+Lemma Permutation_pigeonhole_rel (R : B -> A -> Prop) (l1 : list B) (l2 : list A) :
+  Forall (fun (b : B) => Exists (R b) l2) l1 ->
+  length l2 < length l1 ->
+  exists (b b' : B) (l3 : list B), Permutation l1 (b :: b' :: l3) /\ exists a, In a l2 /\ R b a /\ R b' a.
```
Comment (olaure01) [inline theories/Sorting/Permutation.v:577]:
```suggestion
Lemma Permutation_pigeonhole_rel (R : B -> A -> Prop) l1 l2 :
  Forall (fun b => Exists (R b) l2) l1 ->
  length l2 < length l1 ->
  exists b b' l3, Permutation l1 (b :: b' :: l3) /\ exists a, In a l2 /\ R b a /\ R b' a.
```

File: theories/Sorting/Permutation.v [hunk 5]
```diff
@@ -537,6 +537,68 @@ Proof.
...
+  intros Hl1l2.
+  assert (exists (l2' : list A), Forall2 (fun a (b : B) => R b a) l2' l1 /\ incl l2' l2)
+    as [l2' [Hl2'l1 Hl2'l2]].
+  { revert Hl1l2. induction l1 as [|b l1 IH].
+    - intros _. now exists [].
+    - intros [[a [Ha Hba]] %Exists_exists Hl1l2] %Forall_cons_iff.
+      destruct (IH Hl1l2) as [l2' [Hl1l2' Hl2'l2]].
+      exists (a::l2'). eauto using incl_cons. }
+  intros Hl2l1.
+  assert (Hl2l2' : length l2 < length l2') by now rewrite (Forall2_length Hl2'l1).
```
Comment (olaure01) [inline theories/Sorting/Permutation.v:588]:
```suggestion
  intros Hl2l2'. rewrite <- (Forall2_length Hl2'l1) in Hl2l2'.
```

File: theories/Sorting/Permutation.v [hunk 6]
```diff
@@ -537,6 +537,68 @@ Proof.
...
+  exists (b b' : B) (l3 : list B), Permutation l1 (b :: b' :: l3) /\ exists a, In a l2 /\ R b a /\ R b' a.
+Proof.
+  intros Hl1l2.
+  assert (exists (l2' : list A), Forall2 (fun a (b : B) => R b a) l2' l1 /\ incl l2' l2)
+    as [l2' [Hl2'l1 Hl2'l2]].
+  { revert Hl1l2. induction l1 as [|b l1 IH].
+    - intros _. now exists [].
+    - intros [[a [Ha Hba]] %Exists_exists Hl1l2] %Forall_cons_iff.
+      destruct (IH Hl1l2) as [l2' [Hl1l2' Hl2'l2]].
+      exists (a::l2'). eauto using incl_cons. }
```
Comment (olaure01) [inline theories/Sorting/Permutation.v:586]: Maybe turn this into a lemma:
```coq
Lemma Forall_Exists_exists_Forall2 (R : B -> A -> Prop) l1 l2 :
  Forall (fun b => Exists (R b) l2) l1 ->
  exists l2', Forall2 R l1 l2' /\ incl l2' l2.
```

File: theories/Lists/List.v [hunk 7]
```diff
@@ -3049,6 +3049,25 @@ Section Forall2.
   Theorem Forall2_refl : Forall2 [] [].
   Proof. intros; apply Forall2_nil. Qed.
 
+  Theorem Forall2_cons_iff : forall x y l l',
+    Forall2 (x::l) (y::l') <-> (R x y /\ Forall2 l l').
```
[the remark this answers is not in the document]
Comment (mrhaandi) [reply theories/Lists/List.v]: Done.

File: theories/Lists/List.v [hunk 8]
```diff
@@ -3049,6 +3049,25 @@ Section Forall2.
...
+
+  Theorem Forall2_length : forall l l',
+    Forall2 l l' -> length l = length l'.
+  Proof.
+    intros l. induction l as [|x l IH].
+    - intros l' Hl'. now inversion Hl'.
+    - intros [|y l'] H.
+      + inversion H.
+      + apply Forall2_cons_iff in H.
+        cbn. f_equal. now apply IH.
```
[the remark this answers is not in the document]
Comment (mrhaandi) [reply theories/Lists/List.v]: Done.

File: theories/Sorting/Permutation.v [hunk 9]
```diff
@@ -537,6 +537,68 @@ Proof.
       now apply Permutation_cons_inv with x.
 Qed.
 
+Lemma Permutation_incl_cons_inv_r (l1 l2 : list A) a : incl l1 (a :: l2) ->
+  exists n l3, Permutation l1 ((repeat a n) ++ l3) /\ incl l3 l2.
```
[the remark this answers is not in the document]
Comment (mrhaandi) [reply theories/Sorting/Permutation.v]: Done.

File: theories/Sorting/Permutation.v [hunk 10]
```diff
@@ -537,6 +537,68 @@ Proof.
...
+    destruct (IH Hincl) as [n [l3 [Hl1 Hl3l2]]].
+    destruct Hb.
+    + subst b. exists (S n), l3. eauto.
+    + exists n, (b :: l3). eauto using incl_cons.
+Qed.
+
+Lemma Permutation_pigeonhole (l1 l2 : list A) : incl l1 l2 -> length l2 < length l1 ->
+  exists a l3, Permutation l1 (a :: a :: l3).
+Proof.
+  revert l1. induction l2 as [|a l2 IH].
```
[the remark this answers is not in the document]
Comment (mrhaandi) [reply theories/Sorting/Permutation.v]: Done.

File: theories/Sorting/Permutation.v [hunk 11]
```diff
@@ -537,6 +537,68 @@ Proof.
...
+  - intros [|b l1].
+    + now intros _ ? %PeanoNat.Nat.nlt_0_r.
+    + now intros ? %incl_l_nil.
```
[the remark this answers is not in the document]
Comment (mrhaandi) [reply theories/Sorting/Permutation.v]: Done.

File: theories/Sorting/Permutation.v (hunk 1 above)
Comment (mrhaandi) [reply theories/Sorting/Permutation.v]: Done.

File: theories/Sorting/Permutation.v (hunk 3 above)
Comment (mrhaandi) [reply theories/Sorting/Permutation.v]: Done.

File: theories/Sorting/Permutation.v (hunk 5 above)
Comment (mrhaandi) [reply theories/Sorting/Permutation.v]: Done.

File: theories/Sorting/Permutation.v (hunk 6 above)
Comment (mrhaandi) [reply theories/Sorting/Permutation.v]: Done.

File: theories/Sorting/Permutation.v (hunk 4 above)
Comment (mrhaandi) [reply theories/Sorting/Permutation.v]: This cannot be changed completely, `(l1 : list B)` is necessary because of above `Implicit Types l m : list A.`

**Comment by olaure01** [comment]
@mrhaandi CI is OK, you can squash commits and maybe add `Forall_Exists_exists_Forall2` to changelog.
I will merge by Thursday if there is no comments.

**Review by olaure01 — APPROVED** [review]

**Comment by mrhaandi** [comment]
> CI is OK, you can squash commits and maybe add `Forall_Exists_exists_Forall2` to changelog. I will merge by Thursday if there is no comments.

Done; also I did a fresh rebase to be on the safe side. Thank you, Olivier, for the help.

**Comment by mrhaandi** [comment]
> I would consider easier to merge #16037 first, in case of troubles.

I agree, lets wait for #16037 (planned later today) and I'll rebase afterwards.
In my proofs I did follow strict focusing.
(Also, I really appreciate #16037.)

**Comment by mrhaandi** [comment]
I now rebased on top of master after https://github.com/coq/coq/pull/16037 was merged.

**Comment by Alizter** [comment]
@coq/windows-build-maintainers what is going on in the CI?

**Comment by olaure01** [comment]
@coqbot merge now
